US06919356B2
Part B: Preparation of 1-[2-(4-fluorophenyl)ethyl]-4-methyl-2,6-dioxopiperidine-3-carboxylic acid ethyl ester
Sodium (1.5 g, 65.1 mmol) was dissolved in ethanol (50 mL) and the solution was concentrated under vacuum. The residue was suspended in toluene (50 mL) and bis(2-methoxyethyl)ether (30 mL). Diethyl malonate (4.0 mL, 26.5 mmol) was added, followed by a suspension of trans-2-butenoic acid [2-(4-fluoro-phenyl)ethyl]amide (5.00 g, 24.1 mmol) in bis(2-methoxyethyl)ether (20 mL). The mixture was heated at reflux for 6 hours. The cooled mixture was washed with 1.0 N aqueous hydrochloric acid, then with water, and dried over sodium sulfate and concentrated under vacuum. The residue was purified by flash chromatography, eluting with 25% ethyl acetate in hexane, to provide a pale yellowish oil which slowly crystallized (5.81 g, 75%). This appeared to be a mixture of cis and trans isomers (approximately 15% cis). 1H NMR (300 MHz, CDCl3) δ7.20 (m, 2H), 6.99 (t, J=9 Hz, 2H), 4.28 (m, 2H), 4.00 (m, 2H), 3.66 (d, J=5 Hz, 0.15H), 3.27 (d, J=10 Hz, 0.85H), 2.82 (m, 3H), 2.53 (m, 1H), 2.33 (dd, J=17, 10 Hz, 1H), 1.34 (m, 3H), 1.09 (d, J=7 Hz, 3H). Mass spec (AP+) m/z 322.0 (M+H+, 100%).

reactant | Sodium | 65.1 mmol, 1.5 g | [Na] | Na
reactant | Diethyl malonate | 26.5 mmol, 4.0 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | trans-2-butenoic acid [2-(4-fluoro-phenyl)ethyl]amide | 24.1 mmol, 5.00 g | FC1=CC=C(C=C1)CCNC(\C=C\C)=O | C12H14FNO
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | bis(2-methoxyethyl)ether | 20 mL | COCCOCCOC | C6H14O3
product | 1-[2-(4-fluorophenyl)ethyl]-4-methyl-2,6-dioxopiperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1C(N(C(CC1C)=O)CCC1=CC=C(C=C1)F)=O | C17H20FNO4
